US08084448B2
B. 2,6-Dimethoxy-N,N-dimethylbenzamide
To a stirred solution of dimethylamine (2M in THF, 3 mL) and THF (2 mL) is added 2,6-dimethoxybenzoyl chloride (200.6 mg, 1 mmol) in THF (2 mL) dropwise. After the addition, the solution is stirred at RT for 1 h. Water is added and the suspension is extracted with EtOAc. The organic layer is washed with water and brine, and dried over sodium sulfate. The solvent is removed under reduced pressure to afford the title compound: 1H NMR (CDCl3) δ 7.26-7.22 (t, J=8.34 Hz, 1H), 6.56-6.53 (d, J=8.33 Hz, 2H), 3.79 (s, 6H), 3.12 (s, 3H), 2.82 (s, 3H).

reactant | dimethylamine | 2M, 3 mL | CNC | C2H7N
reactant | 2,6-dimethoxybenzoyl chloride | 1 mmol, 200.6 mg | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | Water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2,6-Dimethoxy-N,N-dimethylbenzamide | COC1=C(C(=O)N(C)C)C(=CC=C1)OC | C11H15NO3
